US03989682
0.45 g of 5-amino-1-β-D-ribofuranosylimidazole-4-carboxamide O-(p-methylbenzyl)-oxime was dissolved in 8 ml of an aqueous solution containing 1 ml of ethanol, and 2 ml of carbon disulfide was added to the solution. The resulting mixture was allowed to react in an autoclave at 130° C for 5 hours under autogenous pressure (about 10 Kg/cm2), and the reaction product was worked up in the same manner as described in Example 1 to obtain 0.288 g of 2-thioadenosine having a melting point of 198° C (with decomposition) in a 76% yield.

reactant | 5-amino-1-β-D-ribofuranosylimidazole-4-carboxamide O-(p-methylbenzyl)-oxime | 0.45 g | CC1=CC=C(CON=C(N)C=2N=CN(C2N)[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)C=C1 | C17H23N5O5
reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | carbon disulfide | 2 ml | C(=S)=S | CS2
product | 2-thioadenosine | 0.288 g, 76% yield | C1=NC2=C(NC(=S)N=C2N1[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O)N | C10H13N5O4S
